US05374641
1-(3-Pyridyl)-2-propen-1-ol (1.36 g), methyl p-bromobenzoate (1.44 g) and palladium acetate II (0.02 g) were dissolved in 30 ml of N,N-dimethylformamide, and stirred under heating at 120° C. overnight. The obtained reaction mixture was concentrated, to which was poured water and extracted with ethyl acetate. The extract with ethyl acetate was washed in saturated aqueous sodium chloride solution and dried over magnesium sulfate. The residue was subjected to chromatography on a silica gel column, which was eluted with chloroform-methanol (20:1 v/v), to obtain 1.25 g of methyl 4-[3-oxo-3-(3-pyridyl)propyl]benzoate.

reactant | 1-(3-Pyridyl)-2-propen-1-ol | 1.36 g | N1=CC(=CC=C1)C(C=C)O | C8H9NO
reactant | methyl p-bromobenzoate | 1.44 g | BrC1=CC=C(C(=O)OC)C=C1 | C8H7BrO2
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
catalyst | palladium acetate | 0.02 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | methyl 4-[3-oxo-3-(3-pyridyl)propyl]benzoate | 1.25 g | O=C(CCC1=CC=C(C(=O)OC)C=C1)C=1C=NC=CC1 | C16H15NO3
